US05733914
To a suspension of NaH (60% in mineral oil, 67 mg) in 10 mL of dimethylformamide was added 2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7(8H)-one (398 mg, 1.30 mmol). The mixture was heated at 45° C. to 55° C. for 40 minutes resulting in a clear solution. Tert-butyl bromoacetate (250 μL, 1.69 mmol) was added, and the solution was stirred at 50° C. for several minutes, then cooled to room temperature and poured onto 60 mL of ice water. The resulting precipitate was removed by filtration and washed with water. The solid was purified by flash chromatography, eluting with a gradient of 1:2 hexane:ethyl acetate to all ethyl acetate to provide 165 mg (30%) of [2-amino-6-(2,6-dichlorophenyl)-7-oxo-7H-pyrido[2,3-d]pyrimidin-8-yl]-acetic acid tert-butyl ester; mp 171°-173° C.

reactant | NaH | 67 mg | [H-].[Na+]
reactant | 2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7(8H)-one | 1.30 mmol, 398 mg | NC=1N=CC2=C(N1)NC(C(=C2)C2=C(C=CC=C2Cl)Cl)=O | C13H8Cl2N4O
reactant | Tert-butyl bromoacetate | 1.69 mmol, 250 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | [2-amino-6-(2,6-dichlorophenyl)-7-oxo-7H-pyrido[2,3-d]pyrimidin-8-yl]-acetic acid tert-butyl ester | 165 mg, 30% | C(C)(C)(C)OC(CN1C(C(=CC2=C1N=C(N=C2)N)C2=C(C=CC=C2Cl)Cl)=O)=O | C19H18Cl2N4O3
